US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (408 mg) was coupled to p-tolylboronic acid to provide 3-(3-chloropropyl)-1-(4-methylphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (99 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 408 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | p-tolylboronic acid | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
product | 3-(3-chloropropyl)-1-(4-methylphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 99 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC=C(C=C2)C)(=O)=O | C17H19ClN2O2S
